US05780566
Tert-butyl (4-vinylphenoxy)acetate
In a 1500 ml sulfonation flask, 135.6 g (1.13 mol) of 4-hydroxystyrene and 220.2 g (1.13 mol) of tert-butyl bromoacetate are dissolved in 800 ml of acetone and to the solution are added 195.0 g (1.41 mol) of potassium carbonate and 0.8 g of potassium iodide. The resultant suspension is stirred for 4 hours at 60° C. bath temperature. After cooling, the inorganic salts are removed by filtration and the filtrate is concentrated. The oily residue is taken up in 1000 ml of diethyl ether, washed twice with 800 ml of 1.0N sodium hydroxide solution and then three times with 1000 ml of water. The organic phase is separated, dried over magnesium sulfate and concentrated, giving 246.5 g of the desired product as a clear oil (93.2%).

reactant | 4-hydroxystyrene | 1.13 mol, 135.6 g | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | tert-butyl bromoacetate | 1.13 mol, 220.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 1.41 mol, 195.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 800 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.8 g | [I-].[K+]
product | Tert-butyl (4-vinylphenoxy)acetate | 246.5 g, 93.2% | C(=C)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C14H18O3
